US08217064B2
To a stirred solution of ethyl 2-(6-(cyclopropylmethoxy)-5-(methylthio)-4′-(trifluoromethyl)biphenyl-3-yl)-4-methylpentanoate (80 mg, 0.166 mmol) in a mixture of THF (10 mL), methanol (10 mL) and water (5 mL) was added LiOH.H2O (20 mg, 0.832 mmol) at room temperature and the mixture was stirred at RT for 2 h. After complete consumption of starting material as monitored by TLC, the reaction mixture was diluted with water (10 mL) and acidified using 1 N HCl at 0° C. The aqueous layer was extracted with EtOAc (2×20 mL); combined organic extracts were washed with water (10 mL), brine (20 mL), dried over anhydrous Na2SO4, filtered and concentrated under vacuo. The crude material was purified by column chromatography to afford 2-(6-(cyclopropylmethoxy)-5-(methylthio)-4′-(trifluoromethyl)biphenyl-3-yl)-4-methylpentanoic acid (38 mg) as an off white solid. 1HNMR (500 MHz) (CDCl3): δ (ppm) 7.75 (d, 2H), 7.65 (d, 2H), 7.31 (s, 1H), 7.23 (s, 1H), 3.65 (t, 1H), 3.60 (d, 2H), 2.82 (s, 3H), 1.98 (m, 1H), 1.65 (m, 1H), 1.5 (m, 1H), 1.22 (m, 1H), 0.9 (d, 6H), 0.38 (d, 2H), 0.01 (d, 2H).

reactant | ethyl 2-(6-(cyclopropylmethoxy)-5-(methylthio)-4′-(trifluoromethyl)biphenyl-3-yl)-4-methylpentanoate | 0.166 mmol, 80 mg | C1(CC1)COC1=C(C=C(C=C1C1=CC=C(C=C1)C(F)(F)F)C(C(=O)OCC)CC(C)C)SC | C26H31F3O3S
reactant | methanol | 10 mL | CO | CH4O
reactant | water | 5 mL | O | H2O
reactant | LiOH.H2O | 0.832 mmol, 20 mg | O[Li].O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-(6-(cyclopropylmethoxy)-5-(methylthio)-4′-(trifluoromethyl)biphenyl-3-yl)-4-methylpentanoic acid | 38 mg | C1(CC1)COC1=C(C=C(C=C1C1=CC=C(C=C1)C(F)(F)F)C(C(=O)O)CC(C)C)SC | C24H27F3O3S
